US07723347B2
2,6-Difluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine
66 mg of 10% palladium-on-carbon are added to a solution of 280 mg (0.62 mmol) of N4,N4-dibenzyl-2,6-difluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine in 20 ml of ethanol and 1.85 ml (1.85 mmol) of 1 M hydrochloric acid, and the suspension is stirred in a hydrogen atmosphere at atmospheric pressure overnight. The suspension is filtered through Celite, the Celite is washed with methanol and the filtrate is then concentrated under reduced pressure. The residue is purified by preparative HPLC.

reactant | N4,N4-dibenzyl-2,6-difluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | 0.62 mmol, 280 mg | C(C1=CC=CC=C1)N(C1=CC(=C(C(=C1)F)NC1=C2C(=NC=C1)NC=C2C)F)CC2=CC=CC=C2 | C28H24F2N4
reactant | hydrochloric acid | 1.85 mmol, 1 M, 1.85 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 66 mg | [Pd] | Pd
product | 2,6-Difluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | FC1=C(C(=CC(=C1)N)F)NC1=C2C(=NC=C1)NC=C2C | C14H12F2N4
